Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
shortness of breath 
 
Major Surgical or Invasive Procedure:
Cardiac catheterization ___
 
History of Present Illness:
___ with history of anxiety, ETOH abuse, who presents with SOB, 
tachycardia, and peripheral edema.

History was obtained from the patient's fiance, ___, 
who is a NP, as pt was unable to provide history. 

She reports that approximately 3.5 wks ago, pt's ex-girlfriend 
began harassing him, causing stress. Pt had frequent panic 
attacks. He developed orthopnea, sleeping in a chair, as well as 
a rapid heart rate that his fiance thought was atrial 
fibrillation, with rates from ___. He also developed a 
productive cough and shortness of breath. Pt attempted to obtain 
visit with his PCP, but was unable to do so. About 10 days ago, 
he developed pedal edema, tachypnea, poor appetite, weakness, 
sleepiness, and ascites. Over this time, he also developed a 
sacral ulcer from lying in bed so much. One day prior to 
admission, he had episodes of confusion.

During this time, his fiance urged him to seek medical care, but 
pt refused. He was still going to work as a ___ during 
most of this time. At baseline, he is quite functional, and 
exercises regularly. Finally today, she was able to convince him 
to come to the ED. 

He drinks 1 bottle of wine daily, and today admitted to ED 
providers that he also drinks nips of vodka. His fianc states 
she had never seen him drinking the nips and did not perceive 
him to have an alcohol problem. She is not sure how many of 
these he might have been drinking per day. 

He presented to ___. There, he was found to have initial 
vitals:97.4, 130s-140s, 90s/60s, 25, O2 sat low ___ on RA. He 
was given 2L IVF, diltiazem 10mg x 2, Ativan 1mg, vancomycin, 
and zosyn. He became hypotensive and was started on levophed. 
Labs were notable for hepatic and renal failure, hyponatremia, 
and leukocytosis. He was transferred to ___ for further 
management.

 In the ED, initial vitals: 96.9  130  ___  98% Nasal 
Cannula 
 Labs notable for:  WBC 15.2 w/ 80% PMNs, BUN/Cr 93/1.4, Tb 6.6 
(5.3 direct), INR 1.6, ALT 386, AST 272. Lipase 157. Na 118. 
ETOH level 82. BNP 2937. VBG: 7.4/29, bicarb 13, lactate 2.9. 
 Imaging: CXR showing pulmonary edema and right pleural 
effusion, RUQ US showing cirrhosis, small ascites. CT head with 
no acute changes. 
 Pt was given: diazepam 5mg IV, levophed was changed to 
dobutamine, thiamine 500mg IV, folate 1mg IV, and loading dose 
phenobarb 780mg.
 A left femoral CVL was placed. 
 Pt was evaluated by hepatology and cardiology. Given his 
ongoing afib with RVR, dobutamine was stopped, with stable 
pressures thereafter. The cardiology fellow performed a bedside 
ultrasound showing global hypokinesis of LV, with depressed EF.

 On transfer, vitals were: 126  ___  99% Nasal Cannula  

 On arrival to the MICU, pt is sometimes sleepy, sometimes 
agitated and pulling at lines/tubes. He responds to questions 
intermittently. He denies chest pain, abdominal pain. He 
endorses discomfort at the site of the foley catheter.

 
Past Medical History:
-ETOH abuse 
-Anxiety
-Panic attacks
-History of Hepatitis B in ___, spontaneously cleared
-OSA
-Tobacco use
 
Social History:
___
Family History:
Brother with history of ETOH abuse.  
 
Physical Exam:
=============
ADMISSION EXAM
==============
Vitals: 97.5  ___  25  97% on RA 
 GENERAL: confused gentleman, obese and plethoric 
 HEENT: Sclera icteric, MMM, oropharynx clear, PERRL  
 NECK: supple, JVP hard to assess due to body habitus 
 LUNGS: CTAB anteriorly 
 CV: tachycardic, irregular, no murmurs
 ABD: soft, distended, nontender, bowel sounds present, only 
small ascites present
 GEN: Foley catheter in place. excoriated rash at skin folds 
bilaterally
 BACK: 1cm open sacral ulcer
 EXT: Warm, well perfused, 2+ pulses, pitting edema to 
mid-thighs bilaterally. 
 SKIN: palmar erythema. jaundiced. plethoric face.
 NEURO: sleepy, oriented to self and location. +asterixis.

=============
DISCHARGE EXAM
==============
 VS: 98.5, 100s-110s/50s-60s (107/59), 70s-80s, ___, 95-99% RA 
 
 I/O: ___ (-284cc)
 Wt: 93.3 < 92.8 < 93.5 <92.7 < 94.3 <- 95.5    
 GENERAL: In chair, alert oriented and appropriate   
 NECK: supple, JVP 7cm
 LUNGS: clear to auscultation, good air movement  
 CV: RRR, normal S1, ___ late systolic/early diastolic murmur 
best appreciated at RUSB.   
 BACK: 1cm open sacral ulcer  
 EXT: Warm, well perfused, 2+ pulses, no edema 
 
Pertinent Results:
===============
ADMIT LABS
===============
___ 04:40PM BLOOD WBC-15.2* RBC-4.23* Hgb-14.0 Hct-39.0* 
MCV-92 MCH-33.1* MCHC-35.9 RDW-13.2 RDWSD-44.1 Plt ___
___ 04:40PM BLOOD Neuts-80* Bands-1 Lymphs-6* Monos-13 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-12.31* 
AbsLymp-0.91* AbsMono-1.98* AbsEos-0.00* AbsBaso-0.00*
___ 04:40PM BLOOD ___ PTT-27.3 ___
___ 04:40PM BLOOD Glucose-122* UreaN-93* Creat-1.4* Na-118* 
K-5.2* Cl-94* HCO3-13* AnGap-16
___ 04:40PM BLOOD ALT-386* AST-272* AlkPhos-280* 
TotBili-6.6*
___ 04:40PM BLOOD proBNP-2937*
___ 04:40PM BLOOD Lipase-157*
___ 04:40PM BLOOD Albumin-3.4* Calcium-8.4 Phos-3.8 Mg-2.7*
___ 04:40PM BLOOD ASA-NEG Ethanol-82* Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:26PM BLOOD ___ Temp-37.3 pO2-36* pCO2-29* 
pH-7.40 calTCO2-19* Base XS--4 Intubat-NOT INTUBA
___ 04:49PM BLOOD Lactate-2.9*

===============
IMAGING
===============
CXR ___
FINDINGS:  
Cardiac size is unchanged since somewhat enlarged.  The lungs 
are clear.  
There is no pneumothorax or pleural effusion. 
PICC line terminates in the SVC. 
IMPRESSION:  
No consolidation seen in left base. 
Cardiomegaly 

ECHO TTE ___
The left atrium is mildly dilated. Left ventricular wall 
thicknesses are normal. The left ventricular cavity is 
moderately dilated with severe global left ventricular 
hypokinesis (LVEF = 26 %). [Intrinsic left ventricular systolic 
function is likely more depressed given the severity of valvular 
regurgitation.] No masses or thrombi are seen in the left 
ventricle. The right ventricular cavity is moderately dilated 
with moderately global free wall hypokinesis. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. Mild to moderate (___) aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. Moderate (2+) 
mitral regurgitation is seen. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 
 IMPRESSION: Biventricular cavity dilation with global 
hypokinesis c/w diffuse process (toxin, metabolic, multivessel 
CAD, etc.) Moderate mitral regurgitation. Mild-moderate aortic 
regurgitation. 
 Compared with the prior study (images reviewed) of ___, 
the findings are similar. 

CXR ___
Comparison to ___, the previous right Swan-Ganz 
catheter has been removed.  A previously placed left PICC line 
is in unchanged position.  Moderate cardiomegaly persists.  No 
pleural effusions.  No pulmonary edema. No pneumonia.

+ ___ TTE
The left atrium is mildly elongated. Left ventricular wall 
thicknesses are normal. The left ventricular cavity is severely 
dilated with severe global hypokinesis and inferior akinesis 
(biplane LVEF= 22%). The right ventricular cavity is moderately 
dilated with moderate global free wall hypokinesis. Tricuspid 
annular plane systolic excursion is depressed (1.2cm) consistent 
with right ventricular systolic dysfunction. The aortic valve 
leaflets are mildly thickened. Mild to moderate (___) aortic 
regurgitation is seen. The mitral valve leaflets are 
structurally normal. An eccentric, inferolaterally directed jet 
of moderate to severe (3+) mitral regurgitation is seen. There 
is borderline pulmonary artery systolic hypertension. There is 
no pericardial effusion. 
IMPRESSION: Marked biventricular cavity enlargment and global 
hypokinesis c/w diffuse process (toxin, metabolic, etc.) 
Moderate to severe mitral regurgitation. Mild-moderate aortic 
regurgitation. 
Compared with the prior study (images reviewed) of ___, 
biventricular systolic funcrion has slightly improved. The 
severity of mitral regurgitation may now be slightly reduced. 

+ ___ TTE
Focused exam, limited findings reported. The left atrium is 
dilated. The right atrium is dilated. The left ventricular 
cavity is moderately dilated. with severe global free wall 
hypokinesis. There are three aortic valve leaflets. Moderate to 
severe (3+) aortic regurgitation is seen, which worsens to 
severe 4+ with impella placement and improves to ___ with 
impella removal. The mitral valve leaflets are mildly thickened. 
Moderate to severe (3+) mitral regurgitation is seen which 
increased to 4 + with impella placement and returned to 3+ with 
removal. Moderate to severe [3+] tricuspid regurgitation is 
seen. Significant pulmonic regurgitation is seen. There is a 
large left pleural effusion noted. There is no Left Atrial 
Appendage clot. Velocities are good, and pectinate muscles are 
seen in a bilobed appendage. All findings discussed with 
___ team at the time of the exam. 

+ RUQ US ___:   
IMPRESSION:   
1. Echogenic liver with mild contour nodularity suggesting 
cirrhosis. No focal lesions identified. 
2. Small volume ascites and small volume perihepatic fluid. No 
splenomegaly. 
3. Gallbladder sludge within an otherwise normal gallbladder. 

+ CXR ___:  
IMPRESSION: Moderate pulmonary edema and probable right pleural 
effusion overall not significantly changed since exam from 
earlier the same day. 

CT HEAD ___: No acute intracranial process.

===============
DISCHARGE LABS
===============
___ 05:33AM BLOOD WBC-8.1 RBC-3.64* Hgb-11.8* Hct-36.5* 
MCV-100* MCH-32.4* MCHC-32.3 RDW-13.0 RDWSD-47.7* Plt ___
___ 05:35AM BLOOD ___ PTT-30.0 ___
___ 05:33AM BLOOD Glucose-115* UreaN-12 Creat-0.7 Na-133 
K-4.5 Cl-97 HCO3-27 AnGap-14
___ 05:35AM BLOOD ALT-56* AST-38 LD(LDH)-252* AlkPhos-148* 
TotBili-1.0
___ 05:33AM BLOOD Calcium-8.6 Phos-4.3 Mg-1.___ PMHx ETOH abuse, anxiety, who presented with DOE, 
tachycardia and peripheral edema found to have newly diagnosed 
dilated cardiomyopathy with profound global biventricular 
contractile dysfunction (LVEF 10%) with cardiogenic shock 
complicated by newly diagnosed afib w/ RVR (converted to SR, on 
amiodarone).
 
# CORONARIES: non-obstructive disease
# PUMP: profound global biventricular contractile dysfunction 
(LVEF 10%) and 3+ mitral regurgitation
# RHYTHM: Afib w/ RVR
 
#) CARDIOGENIC SHOCK, ACUTE DECOMPENSATED SYSTOLIC HEART 
FAILURE: LVEF 10%.
Pt found to be in cardiogenic shock with cool extremities, 
elevated lactate, and evidence of end organ damage with ___.  
TTE showed profound global biventricular contractile dysfunction 
(LVEF 10%) and 3+ mitral regurgitation.  Cardiomyopathy most 
likely secondary to alcohol abuse, although may have a component 
of tachycardia-induced cardiomyopathy.  PA line was placed with 
initial numbers showed elevated filling pressures, CI 1.2 and 
MvO2 42.  Pt underwent IABP placement with clinical 
deterioration, and later Impella placement.  Both resulted in 
worsening AI, so medications were pursued without mechanical 
support.  Pt initially required dobutamine, levophed and 
vasopressin.  Vasopressin and levophed were weaned off on ___, 
and dobutamine was weaned off on ___.  Pt responded well to 
pre-load reduction with lasix with significantly net negative.  
Pt was started on Milrinone due to concern for poor 
contractility.  PA line removed ___ (last of numbers: CO 6.0 CI 
2.8 SVR 522, lactate 1, MVO2 69). PICC was placed and pt 
discharged on milrinone with a plan to re-admit in several weeks 
to attempt wean.  Also discharged on Digoxin, Lisinopril and 
Spironolactone.  Discharge diuretic regimen ????  Discharge 
weight ????  
 
#ATRIAL FIBRILLATION W/ RVR: 
Pt found to have newly diagnosed atrial fibrillation with RVR.  
CHADS2 score 1 (for CHF).  RVR likely triggered by alcohol 
abuse.  Pt cardioverted with TEE on ___ but returned to ___ 
fibrillation later in the day, likely secondary to levophed 
(which was later discontinued).  Pt was successfully 
cardioverted with amiodarone and remained in sinus rhythm for 
the rest of the hospitalization. During hospitalization, pt 
anticoagulated with heparin gtt, and transitioned to Apixaban on 
___. Pt discharged on amiodarone 200mg daily (reduced on ___ 
after loading dose. 
 
#) DECOMPENSATED LIVER DISEASE
Pt found to have newly diagnosed liver disease, likely secondary 
to alcoholic hepatitis and congestive hepatopathy in setting of 
poor cardiac function. On admission, MELD score 22. Discriminant 
function 27.3, so he did not meet criteria for steroids.  Duplex 
RUQUS showed echogenic liver consistent with steatotis with 
patent hepatic vasculature and small volume ascites.  The most 
likely etiology of his liver disease is alcohol.  Liver function 
tests were downtrending with improving cardiac function.  Pt to 
follow up with hepatology for EGD for esophageal varices 
screening.

#HYPONATREMIA:
Pt found to have severe hyponatremia with Na 118 on 
presentation.  Sodium corrected rapidly with aggressive 
diuresis, controlled with free water boluses.  Resolved on 
discharge. 

#ETOH withdrawal: 
Last drink on day of admission, ETOH level on admit 82. Pt high 
risk for complicated withdrawal given withdrawal sx with 
positive ETOH level. He was loaded with phenobarbital in the ED. 
Later managed with CIWA protocol with ativan.  Pt received 
thiamine, folate and MVI.
 
#E. COLI UTI 
Pt found to have pan-sensitive E. coli UTI, for which he 
completed a 7-day course of Ceftriaxone.
 
#HYPOXEMIC RESPIRATORY FAILURE: 
Patient was electively intubated for mechanical support during 
procedures and cardioversion.  Pt developed hypoxia to 84% while 
impella placed, possibly secondary to flash pulmonary edema.  Pt 
was successfully diuresed and extubated.
 
#ACUTE KIDNEY INJURY:
Unknown baseline.  Creatinine 1.4 on admission, peaked at 2.1.  
Urine sediment showed muddy brown casts, consistent with ATN 
likely from hypotension in setting of cardiogenic shock.  
Creatinine resolved with improving cardiac function and 
diuresis.  Resolved on discharge.
 

TRANSITIONAL ISSUES
================================ 
1. Pt discharged with PICC in place for home Milrinone. Plan to 
re-admit pt in several weeks to attempt weaning Milrinone.
2. Pt will need to be involved in alcohol relapse prevention 
program.
3. Pt will need EGD for esophageal varices screening. Pt 
scheduled for follow-up with hepatology.
4. Pt discharged on amiodarone 200 daily 
5. Pt discharged with Ativan for anxiety, however, this should 
be managed by mental health provider. He needs referral to 
psychiatry/psychologist for this. Would likely benefit from 
SSRI. 

# CODE: presumed Full 
# CONTACT: ___ ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice daily 
Disp #*60 Tablet Refills:*0
2. Milrinone 0.375 mcg/kg/min IV DRIP INFUSION 
RX *milrinone 1 mg/mL 0.375 mcg/kg/min IV continuous Disp #*8 
Bag Refills:*3
3. Amiodarone 200 mg PO DAILY 
RX *amiodarone 200 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
4. Digoxin 0.125 mg PO DAILY 
RX *digoxin 125 mcg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
5. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
6. Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
7. Lorazepam 0.5-1 mg PO Q6H:PRN anxiety 
RX *lorazepam 0.5 mg ___ tablets by mouth Q6H PRN Disp #*40 
Tablet Refills:*0
8. Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
9. Spironolactone 25 mg PO DAILY 
RX *spironolactone 25 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
10. Torsemide 20 mg PO ASDIR 
Take 4 tablets daily (for total dose 80 mg).  
RX *torsemide 20 mg 4 tablet(s) by mouth daily Disp #*120 Tablet 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY:
- Cardiogenic shock
- Systolic heart failure
- Atrial fibrillation with RVR
- Alcoholic hepatitis
- Hyponatremia
- Alcohol withdrawal
- Complicated cystitis
- Hypoxemic respiratory failure
- Acute kidney injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___.  You were admitted 
because of your recent shortness of breath, leg swelling, and 
rapid heart rate.  You were found to have a very sick heart, 
likely from alcohol.  You required medications to help support 
your heart.  

Your heart is still very weak, so you need to continue 
milrinone, which is the infusion to help support your heart.  We 
are hoping to re-admit you to the hospital in several weeks to 
attempt weaning the milrinone.  

You were also found to have liver disease, which is also likely 
from alcohol.  You have follow-up scheduled with a liver doctor. 
 

You were also found to have an abnormal rhythm of your heart 
(atrial fibrillation).  This abnormal rhythm can cause strokes, 
so you were started on a blood thinner called Apixaban to 
prevent strokes.

You were started on many new medications.  It is very important 
for you to take these medications as prescribed.  It is very 
important for you to weigh yourself every morning, and call your 
doctor if your weight goes up by more than 3 pounds or you start 
to have more swelling in your legs. You may have to take an 
extra dose of torsemide if your weight goes up. You should do 
this as directed by your cardiologist. You should also return 
immediately if you develop worsening shortness of breath or 
chest pain.

Most importantly, it is VERY important that you avoid alcohol, 
as this can cause further damage to your heart.

Sincerely,
Your ___ team
 
Followup Instructions:
___